US03953415
6.62 g. (8.7 mmoles) of H-28-31-OtBu are dissolved in 65 ml. of ethyl acetate, and 2.72 g. (8.5 mmoles) of Z-Ala-ONSu are added to the solution. After 5 minutes of stirring, a homogeneous solution is formed. The reaction mixture is stirred for one hour; at that time the product separates from the mixture. The mixture is left to stand overnight, thereafter the product is filtered off and washed with ethyl acetate. The crude product is recrystallized from 65 ml. of ethyl acetate. 6.61 g. (80.7 %) of Z-27-31-OtBu are obtained. M.p.: 193°-195° C, Rf11 = 0.75.

reactant | H-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | 8.7 mmoles | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C37H66N4O12
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Z-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | 80.7 % | N([C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C48H77N5O15
